US07288544B2
3) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-5-(3,3-diphenylpropylcarbamoyl)-1,4-dihydropyridine-3-carboxylic acid:
275 mg (0.500 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-5-(3,3-diphenylpropylcarbamoyl)-1,4-dihydropyridine-3-carboxylic acid 2-cyanoethyl ester was dissolved in 10 ml of methanol. 1 ml of 1 N aqueous sodium hydroxide solution was added and stirred at room temperature for 7.5 hours. After adding 2 N hydrochloric acid, methanol was evaporated under reduced pressure. Water was added to the residue, and precipitates thus formed were taken by the filtration, then washed with water and hexane/ethyl acetate (3/1) and dried under reduced pressure to obtain the title compound.

reactant | 4-(3-chlorophenyl)-2,6-dimethyl-5-(3,3-diphenylpropylcarbamoyl)-1,4-dihydropyridine-3-carboxylic acid 2-cyanoethyl ester | 0.500 mmol, 275 mg | C(#N)CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)C)C | C33H32ClN3O3
reactant | sodium hydroxide | 1 N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-(3-chlorophenyl)-2,6-dimethyl-5-(3,3-diphenylpropylcarbamoyl)-1,4-dihydropyridine-3-carboxylic acid | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)C)C)C(=O)O | C30H29ClN2O3
